M9 (net22 net22 VOUT3 VDD) pmos4
M8 (net25 net22 VIN1 VDD) pmos4
M7 (net25 net22 VIN1 VDD) pmos4
M3 (VOUT2 VOUT1 VOUT3 VDD) pmos4
M2 (VOUT1 net10 VOUT3 VDD) pmos4
? Missing component
M0 (net10 net10 VIN1 VDD) pmos4
M11 (net22 net22 VIN2 VSS) nmos4
M10 (net25 net22 VSS VSS) nmos4
M6 (VOUT2 VOUT1 VSS VSS) nmos4
M5 (VOUT1 net10 VIN2 VSS) nmos4
M4 (net10 net10 VSS VSS) nmos4
C3 (VOUT1 net22) capacitor
C2 (net22 VOUT1) capacitor
C1 (net25 net10) capacitor
C0 (net10 net25) capacitor
